US08492582B2
Dioxane (2 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.79 mL) were added to the obtained methyl 2-(2-acetoxy-5-(furan-2-yl)benzamido)-4-phenylbenzoate (0.072 g), followed by stirring at room temperature for 6 hours. The reaction mixture was adjusted to a pH of 1.5 with 2 mol/L hydrochloric acid, and the solid substance was collected by filtration to obtain 0.055 g of 2-(5-(furan-2-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a yellow solid.

reactant | sodium hydroxide | 0.79 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-5-(furan-2-yl)benzamido)-4-phenylbenzoate | 0.072 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1OC=CC1 | C27H21NO6
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(5-(furan-2-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.055 g | O1C(=CC=C1)C=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C24H17NO5
